US07939527B2
1-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)benzyl]piperidine-4-carboxylic Acid
To a solution of ethyl 1-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)benzyl]piperidine-4-carboxylate (97 mg, 0.24 mmol) in isopropyl alcohol (750 μL) was added 1 N KOH (240 μL). The mixture was allowed to stir at rt for 2 h. The reaction mixture was then poured into water (20 mL) and basified to pH 9. The resultant solution was extracted with a 1:1 solution of CHCl3/isopropyl alcohol (2×30 mL). The combined organic extracts were dried, filtered, and concentrated to afford the title compound (38 mg, 43%). 1H NMR (400 MHz, CD3OD): 8.49 (d, J=4.8, 1H), 8.32 (dd, J=8.0, 1.6, 1H), 7.61-7.54 (m, 2H), 7.52-7.45 (m, 2H), 7.35 (dd, J=8.0, 4.9, 1H), 3.95 (s, 2H), 3.22-3.09 (m, 2H), 2.65-2.46 (m, 1H), 2.38-2.22 (m, 1H), 2.05-1.92 (m, 2H), 1.91-1.75 (m, 2H), 0.98-0.79 (m, 1H). MS (ESI): mass calcd for C19H19N3O3S, 369.12; m/z found, 370.2 [M+H]+.

reactant | ethyl 1-[4-([1,3]thiazolo[4,5-b]pyridin-2-yloxy)benzyl]piperidine-4-carboxylate | 0.24 mmol, 97 mg | S1C(=NC2=NC=CC=C21)OC2=CC=C(CN1CCC(CC1)C(=O)OCC)C=C2 | C21H23N3O3S
reactant | KOH | 1 N, 240 μL | [OH-].[K+]
reactant | water | 20 mL | O | H2O
solvent | isopropyl alcohol | 750 μL | C(C)(C)O | C3H8O
product | 1-[4-([1,3]Thiazolo[4,5-b]pyridin-2-yloxy)benzyl]piperidine-4-carboxylic Acid | 38 mg, 43% | S1C(=NC2=NC=CC=C21)OC2=CC=C(CN1CCC(CC1)C(=O)O)C=C2 | C19H19N3O3S
